US09034866B2
3-(aminomethyl)-10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was suspended in N,N-Dimethylformamide overnight to form crude 10-bromo-9-fluoro-3-(formamidomethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide following extractive workup.

reactant | 3-(aminomethyl)-10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | NCC1=C(N=C2N1C1CC(C3=C2C=C(C(=C3)F)Br)C1)C(=O)N | C15H14BrFN4O
reactant | N,N-Dimethylformamide | CN(C=O)C | C3H7NO
product | 10-bromo-9-fluoro-3-(formamidomethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CNC=O)C1)F | C16H14BrFN4O2
